US06696110B1
A 1M solution of boron tribromide in dichloromethane (75 cm3) is added dropwise to a solution of 1-(4-methoxyphenyl)-2-(2-cyanothiophen-5-yl)acetylene (3.0 g) and dichloromethane (100 cm3) at 0° C. under an atmosphere of nitrogen. The reaction solution is stirred overnight and water (100 cm3) added. The organic layer is separated off and the aqueous layer extracted with dichloromethane (2×100 cm3). The combined organic layers are washed with brine (2×100 cm3) and then dried (MgSO4), filtered and evaporated down. The residue is purified by column chromatography on silica gel using a 9:1 hexane/ethyi acetate mixture as eluent and recrystallisation from ethanol to yield 1.8 g of g 1-(4-hydroxyphenyl)-2-(2-cyanothiophen-5-yl)acetylene.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 1-(4-methoxyphenyl)-2-(2-cyanothiophen-5-yl)acetylene | 3.0 g | COC1=CC=C(C=C1)C#CC1=CC=C(S1)C#N | C14H9NOS
reactant | water | 100 cm3 | O | H2O
solvent | dichloromethane | 75 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | 1-(4-hydroxyphenyl)-2-(2-cyanothiophen-5-yl)acetylene | 1.8 g | OC1=CC=C(C=C1)C#CC1=CC=C(S1)C#N | C13H7NOS
